US08383639B2
6-(3-(4-Fluorobenzyl)-1,2,4-oxadiazol-5-yl)-5-hydroxy-3-methyl-2-morpholinopyrimidin-4(3H)-one.
A yellow solution of 5-(benzyloxy)-6-(3-(4-fluorobenzyl)-1,2,4-oxadiazol-5-yl)-3-methyl-2-morpholinopyrimidin-4(3H)-one (0.216 g, 0.45 mmol) in TFA (10 mL) was stirred 8 h at room temperature. The reaction mixture was then concentrated and the resulting yellow oil was dissolved in MeOH and concentrated to give pale yellow slurry which was triturated with water and filtered to afford the title compound (0.141 g, 80% yield) as a pale off-white solid. 1HNMR (500 MHz, CDCl3) δ: 9.62 (1H, s), 7.30 (2H, dd, J=8.4, 5.4 Hz), 7.01 (2H, t, J=8.6 Hz), 4.15 (2H, s), 3.85-3.83 (4H, m), 3.58 (3H, s), 3.19-3.17 (4H, m). HRMS (M+H) calcd for C18H19N5O4F: 388.1421. found: 388.2924. Anal calcd for C18H18N5O4F: C, 55.81; H, 4.68; N, 18.08; F, 4.90. found: C, 56.16; H, 4.96; N, 17.40; F, 4.94.

reactant | 5-(benzyloxy)-6-(3-(4-fluorobenzyl)-1,2,4-oxadiazol-5-yl)-3-methyl-2-morpholinopyrimidin-4(3H)-one | 0.45 mmol, 0.216 g | C(C1=CC=CC=C1)OC=1C(N(C(=NC1C1=NC(=NO1)CC1=CC=C(C=C1)F)N1CCOCC1)C)=O | C25H24FN5O4
solvent | TFA | 10 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 6-(3-(4-Fluorobenzyl)-1,2,4-oxadiazol-5-yl)-5-hydroxy-3-methyl-2-morpholinopyrimidin-4(3H)-one | 0.141 g, 80% yield | FC1=CC=C(CC2=NOC(=N2)C2=C(C(N(C(=N2)N2CCOCC2)C)=O)O)C=C1 | C18H18FN5O4
